US06624158B2
N-Isopropylcyclopentanamine
Pearlman's catalyst (20% w/w palladium hydroxide-on-carbon) (1.5 g) was added to a solution of cyclopentylamine (15 ml, 0.21 mol) in acetone (200 ml). The reaction mixture was stirred under an atmosphere of hydrogen gas at 414 kPa (60 psi). After stirring for 16 hours the reaction mixture was filtered through Arbocel (trade mark) and the solvent was removed under reduced pressure to give the title compound (15 ml) as a thin oil.

reactant | cyclopentylamine | 0.21 mol, 15 ml | C1(CCCC1)N | C5H11N
reactant | acetone | 200 ml | CC(=O)C | C3H6O
catalyst | Pearlman's catalyst | 1.5 g | [OH-].[OH-].[Pd+2]
product | N-Isopropylcyclopentanamine | 15 ml | C(C)(C)NC1CCCC1 | C8H17N
